US05124325
6-Chloro-2-phenyl-1,2,3,4-tetrahydroquinoline-8-carboxylic acid
To a solution of 8-chloro-5,6-dihydro-4-phenyl-4H-pyrrolo-[3,2,1-ij]quinoline-1,2-dione (3.4 g) and sodium hydroxide (2 g) in water (100 ml) was added 35% aqueous hydrogen peroxide solution (5 ml) and stirred at room temperature for an hour. The reaction mixture was acidified slightly by adding concentrated hydrochloric acid, the resulting precipitate was collected by filtration, washed and dried to give the title compound (3.17 g, 96.7%) as yellow crystals. This crystals was recrystallized from ethanol to pale yellow needles, mp 199°-200 ° C.

reactant | 8-chloro-5,6-dihydro-4-phenyl-4H-pyrrolo-[3,2,1-ij]quinoline-1,2-dione | 3.4 g | ClC=1C=C2CCC(N3C2=C(C1)C(C3=O)=O)C3=CC=CC=C3 | C17H12ClNO2
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | hydrogen peroxide | 5 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 6-Chloro-2-phenyl-1,2,3,4-tetrahydroquinoline-8-carboxylic acid | 3.17 g, 96.7% | ClC=1C=C2CCC(NC2=C(C1)C(=O)O)C1=CC=CC=C1 | C16H14ClNO2
